US08030500B2
4-Fluoro-1-(4-methoxy-3-(pyrazin-2-yl)phenyl)-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine
1-(3-Bromo-4-methoxyphenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine (1.5 g, 3.12 mmol), 2-tributylstannylpyrazine (1.268 g, 3.44 mmol), tetrakis(triphenylphosphine)palladium(0) (0.361 g, 0.31 mmol) and DMF (10 mL) were heated in a microwave oven for 20 min at 150° C. The reaction mixture was filtered and concentrated under reduced pressure. The residue was diluted with DCM (40 ml) and silica powder was added and the mixture was concentrated under reduced pressure. The residue was purified by flash column chromatography (0-10% 0.1M NH3 in Methanol in DCM) to afford the title compound (0.82 g, 54.8%).

reactant | 1-(3-Bromo-4-methoxyphenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine | 3.12 mmol, 1.5 g | BrC=1C=C(C=CC1OC)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C(F)(F)F | C21H14BrF4N3O
reactant | 2-tributylstannylpyrazine | 3.44 mmol, 1.268 g | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.31 mmol, 0.361 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-Fluoro-1-(4-methoxy-3-(pyrazin-2-yl)phenyl)-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine | 0.82 g, 54.8% | FC1=C2C(=NC(C2=CC=C1)(C1=CC(=NC=C1)C(F)(F)F)C1=CC(=C(C=C1)OC)C1=NC=CN=C1)N | C25H17F4N5O
